US05929117
3-(3,4-Diethylphenyl)-3-(3,4-dimethoxyphenyl)acrylonitrile was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3',4'-diethyl-3,4-dimethoxybenzophenone (0.51 g, 1.7 mmol), diethylcyanomethylphosphonate (0.31 mL, 1.9 mmol) and lithium hexamethyldisilazide (1.4 mL, 1.9 mmol, 1.3M) with a reaction time of 60 hours at room temperature. The crude product was purified by chromatography (silica gel, 1% ethyl acetate/methylene chloride) to afford an oil which was stirred in hexane until it solidified. The resulting slurry was filtered, the solid washed with hexane, air dried, and dried in vacuo to afford 0.31 g (57%) of a mixture of the E and Z isomers as an off white solid: mp 78-82° C.; 1H NMR (CDCl3) δ 7.30-6.75 (m, 12H), 5.61 (s, 1H), 5.60 (s, 1H), 3.94 (s, 3H), 3.92 (s, 3H), 3.87 (s, 3H), 3.83 (s, 3H), 2.80-2.59 (m, 8H), 1.35-1.14 (m, 12H); 13C NMR (CDCl3) δ 163.0,163.0, 151.0, 150.5, 148.8, 148.6, 144.6, 143.9, 142.1, 141.8, 136.8, 134.5, 131.9, 129.7, 128.6, 128.5, 128.2, 127.3, 126.3, 123.2, 122.2, 118.7, 118.6, 112.8, 111.3, 110.7, 92.5, 92.2, 56.1, 56.0, 25.5, 25.4, 25.4, 25.3, 15.3, 15.2, 15.0, 14.9; Anal. Calcd for C21H23NO2. Theoretical: C, 78.47; H, 7.21; N, 4.36. Found: C, 77.80; H, 7.25; N, 4.68.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3',4'-diethyl-3,4-dimethoxybenzophenone | 1.7 mmol, 0.51 g | C(C)C=1C=C(C=CC1CC)C(C1=CC(=C(C=C1)OC)OC)=O | C19H22O3
reactant | diethylcyanomethylphosphonate | 1.9 mmol, 0.31 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 1.9 mmol, 1.3M, 1.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | hexane | CCCCCC | C6H14
product | 3-(3,4-Diethylphenyl)-3-(3,4-dimethoxyphenyl)acrylonitrile | C(C)C=1C=C(C=CC1CC)C(=CC#N)C1=CC(=C(C=C1)OC)OC | C21H23NO2
